US07776869B2
To a 100 mL RBF was added (S)-tert-butyl methyl(1-(2-nitro-4-(trifluoromethyl)phenyl)piperidin-3-yl)carbamate (1.75 g, 4.34 mmol) and palladium, 10 wt. % on activated carbon wet (0.923 g, 0.868 mmol) under nitrogen. MeOH was added via syringe, and the atmosphere was purged with hydrogen from a balloon. The reaction was allowed to stir rapidly under hydrogen for 8 h. The flask was purged with nitrogen, filtered through celite, rinsing with 100 mL MeOH, and concentrated to give (S)-tert-butyl 1-(2-amino-4-(trifluoromethyl)phenyl)piperidin-3-yl(methyl)carbamate as a gray solid. MS m/z=374 [M+H]+. Calc'd for C18H26F3N3O2: 373.

reactant | (S)-tert-butyl methyl(1-(2-nitro-4-(trifluoromethyl)phenyl)piperidin-3-yl)carbamate | 4.34 mmol, 1.75 g | CN(C(OC(C)(C)C)=O)[C@@H]1CN(CCC1)C1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C18H24F3N3O4
catalyst | palladium | [Pd] | Pd
solvent | MeOH | CO | CH4O
product | (S)-tert-butyl 1-(2-amino-4-(trifluoromethyl)phenyl)piperidin-3-yl(methyl)carbamate | NC1=C(C=CC(=C1)C(F)(F)F)N1C[C@H](CCC1)N(C(OC(C)(C)C)=O)C | C18H26F3N3O2
